US08207147B2
Preparation 8: (3-Pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)carbamic acid tert-butyl ester
A solution of tert-butoxycarbonylaminoacetic acid (11.0 g, 5.71 mmol) and triethylamine (802 μl, 5.71 mmol) in toluene (30 ml) was cooled to 0° C. and isobutylchloroformate (740 μl, 5.71 mmol) introduced dropwise. The reaction mixture was stirred at 0° C. for 10 min and at rt for 30 min, whereupon N-hydroxyisonicotinamidine (652 mg, 4.76 mmol) and powdered 3 Å molecular sieves (4 g) were added. After heating under reflux for 12 h the reaction was cooled, filtered through celite and the solvent removed in vacuo. The residue was dissolved in EtOAc (200 ml) and washed with water (30 ml) and saturated aqueous NaHCO3 (30 ml), then dried (MgSO4). The solvent was removed and the residue purified by flash chromatography (IH-EtOAc, 2:3) to afford the title compound: RT=2.97 min; m/z (ES+)=277.1 [M+H]+.

reactant | tert-butoxycarbonylaminoacetic acid | 5.71 mmol, 11.0 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | triethylamine | 5.71 mmol, 802 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 5.71 mmol, 740 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-hydroxyisonicotinamidine | 4.76 mmol, 652 mg | ONC(C1=CC=NC=C1)=N | C6H7N3O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (3-Pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC(=NO1)C1=CC=NC=C1)=O | C13H16N4O3
